US06949576B2
3-(2-Chloro-6-fluorophenyl)-5-[4-methyl-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole
A mixture of 4-trifluoromethoxybenzeneboronic acid (0.4 g, 1.1 mmol), 3-(2-chloro-6-fluorophenyl)-5-[5-bromo-4-methylthien-3-yl]-1-methyl-1H-1,2,4-triazole (0.4 g, 1 mmol), sodium carbonate (0.2 g, 1.9 mmol), tri-o-tolylphosphine (32 mg, 0.1 mmol) and dichlorobis(triphenylphosphine)palladium(II) (73 mg, 0.1 mmol) were refluxed under nitrogen for 16 hours in an acetonitrile (14 mL) and water (1.4 mL) solution. After cooling to room temperature, the reactants were poured into dilute hydrochloric acid (1 N, 50 mL) and extracted with ether (3×50 mL). The combined ethereal extracts were washed with water (100 mL), saturated aqueous bicarbonate (70 mL) and brine (50 mL), dried over magnesium sulphate, filtered and concentrated. The residue was chromatographed over silica to afford the product as a yellow gum (210 mg, 43%): 1H NMR (CDCl3) δ 7.55 (s, 1H), 7.49 (d, 2H), 7.28-7.39 (m, 4H), 7.11 (t, 1H), 4.03 (s, 3H), 2.33 (s, 3H); EI/MS 467 m/e (M−1).

reactant | 4-trifluoromethoxybenzeneboronic acid | 1.1 mmol, 0.4 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | 3-(2-chloro-6-fluorophenyl)-5-[5-bromo-4-methylthien-3-yl]-1-methyl-1H-1,2,4-triazole | 1 mmol, 0.4 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC(=C1C)Br)C | C14H10BrClFN3S
reactant | sodium carbonate | 1.9 mmol, 0.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-o-tolylphosphine | 0.1 mmol, 32 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | hydrochloric acid | 1 N, 50 mL | Cl | ClH
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.1 mmol, 73 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1.4 mL | O | H2O
solvent | acetonitrile | 14 mL | C(C)#N | C2H3N
product | 3-(2-Chloro-6-fluorophenyl)-5-[4-methyl-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole | 210 mg, 43% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC(=C1C)C1=CC=C(C=C1)OC(F)(F)F)C | C21H14ClF4N3OS
